US08071766B2
2M. Synthesis of O-(((3aR,4R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)hydroxylamine (2Y)
The title compound was prepared using the procedure described for Example 2K by using ((3aR,4R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol (2.04 g, 10 mmol), CH2Cl2 (25 mL), 2-hydroxyisoindolin-1,3-dione (2.0 g, 12 mmol), triphenylphosphine (4.0 g, 15 mmol), diisopropylazodicarboxylate (3.0 ml, 15 mmol) and hydrazine hydrate (2.0 mL, 20 mmol) to afford 1.12 g of O-(((3aR,4R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)hydroxylamine (2Y) (50%, over two steps) as a pale yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.24 (s, 3H) 1.26 (s, 3H) 3.31 (s, 3H) 3.59-3.75 (m, 2H) 4.44 (t, J=7.20 Hz, 1H) 4.56 (d, J=5.81 Hz, 1H) 4.67 (d, J=6.06 Hz, 1H) 4.92-5.00 (m, 1H). MS (ES) [M+H] calculated for C9H18NO5, 220.11. found 220.10.

reactant | ((3aR,4R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methanol | 10 mmol, 2.04 g | COC1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CO | C9H16O5
reactant | 2-hydroxyisoindolin-1,3-dione | 12 mmol, 2.0 g | ON1C(C2=CC=CC=C2C1=O)=O | C8H5NO3
reactant | triphenylphosphine | 15 mmol, 4.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 15 mmol, 3.0 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | hydrazine hydrate | 20 mmol, 2.0 mL | O.NN
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | O-(((3aR,4R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)hydroxylamine | 1.12 g, 50% | COC1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CON | C9H17NO5
